US07714126B2
Preparation of (2-methoxyethyl)-methy-(6-nitropyridin-3-yl)-amine
A solution of 2-nitro-5-bromopyridine (500 mg, 3.15 mmol) in EtOH (15 mL) was treated with methoxyethyl-N-methylamine (1.12 g, 12.6 mmol) and diisopropylethylamine (2.2 mL, 12.6 mmol). The resulting mixture was then heated in a sealed tube at 90° C. for 4 days then cooled and partitioned between EtOAc and water. The organic layer was dried over Na2SO4, filtered and concentrated. The residue was chromatographed on a silica gel column with a 40-100% EtOAc in hexanes gradient to afford the product as a thick yellow oil that crystallized slowly upon standing (270 mg, 41% yield). HRMS m/z calcd for C9H13N3O3 [M+Na]+: 234.0849; Found: 234.0850.

reactant | 2-nitro-5-bromopyridine | 3.15 mmol, 500 mg | [N+](=O)([O-])C1=NC=C(C=C1)Br | C5H3BrN2O2
reactant | methoxyethyl-N-methylamine | 12.6 mmol, 1.12 g | COCCNC | C4H11NO
reactant | diisopropylethylamine | 12.6 mmol, 2.2 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | EtOH | 15 mL | CCO | C2H6O
product | (2-methoxyethyl)-methy-(6-nitropyridin-3-yl)-amine | 41% yield | COCCN(C=1C=NC(=CC1)[N+](=O)[O-])C | C9H13N3O3
